US07495005B2
1-[2-(2-nitrophenyl)-2-oxoethyl]-3-methyl-7-(3-methyl-2-buten-1-yl)-8-[3-(tert-butyloxycarbonylamino)piperidin-1-yl]xanthine
2.20 g of 3-tert-butyloxycarbonylaminopiperidine is added at 65° C. to 4.40 g of 1-[2-(2-nitrophenyl)-2-oxoethyl]-3-methyl-7-(3-methyl-2-buten-1-yl)-8-chloroxanthine and 1.30 g of sodium carbonate in 50 mL of dimethylsulfoxide. The reaction mixture is stirred for approximately 16 hours at 65° C. After cooling to ambient temperature, it is poured onto a mixture of 600 mL of water and 100 g of ice. The precipitate formed is suction filtered and washed with water. The filter cake is dissolved in diethyl ether, and the solution is dried and evaporated down. The brown resinous flask residue is brought to crystallization with diisopropylether. Yield: 3.30 g (54% of theory); Rf value: 0.52 (silica gel, cyclohexane/ethyl acetate (3:7)); mass spectrum (ESI+): m/z=596 [M+H]+.

reactant | 3-tert-butyloxycarbonylaminopiperidine | 2.20 g | C(C)(C)(C)OC(=O)NC1CNCCC1 | C10H20N2O2
reactant | 1-[2-(2-nitrophenyl)-2-oxoethyl]-3-methyl-7-(3-methyl-2-buten-1-yl)-8-chloroxanthine | [N+](=O)([O-])C1=C(C=CC=C1)C(CN1C(=O)N(C=2N=C(N(C2C1=O)CC=C(C)C)Cl)C)=O | C19H18ClN5O5
reactant | sodium carbonate | 1.30 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 600 mL | O | H2O
solvent | dimethylsulfoxide | 50 mL | CS(=O)C | C2H6OS
product | 1-[2-(2-nitrophenyl)-2-oxoethyl]-3-methyl-7-(3-methyl-2-buten-1-yl)-8-[3-(tert-butyloxycarbonylamino)piperidin-1-yl]xanthine | [N+](=O)([O-])C1=C(C=CC=C1)C(CN1C(=O)N(C=2N=C(N(C2C1=O)CC=C(C)C)N1CC(CCC1)NC(=O)OC(C)(C)C)C)=O | C29H37N7O7
